US08431573B2
4-[4-(tert-Butyl)piperidin-1-yl]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 536 mg (3.80 mmol) of 4-tert-butylpiperidine to give 57 mg (42% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | 4-tert-butylpiperidine | 3.80 mmol, 536 mg | C(C)(C)(C)C1CCNCC1 | C9H19N
product | 4-[4-(tert-Butyl)piperidin-1-yl]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C(C)(C)(C)C1CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C19H24N4OS
